US07863332B2
3.7 g (43 mmol, 10 eq) of manganese dioxide are added to a solution of 900 mg (4.3 mmol, 1 eq) of (4-bromo-3-methylphenyl)methanol in 8 mL of dichloromethane. The reaction mixture is stirred for 12 hours at room temperature. The solid is filtered off and the solvent is evaporated off. 900 mg of 4-bromo-3-methylbenzaldehyde are obtained in oil form and used in the following reaction without further purification.

reactant | (4-bromo-3-methylphenyl)methanol | 4.3 mmol, 900 mg, 1 eq | BrC1=C(C=C(C=C1)CO)C | C8H9BrO
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 43 mmol, 3.7 g, 10 eq | [O-2].[O-2].[Mn+4]
product | 4-bromo-3-methylbenzaldehyde | 900 mg | BrC1=C(C=C(C=O)C=C1)C | C8H7BrO
